US07851490B2
3-Nitro-4-(3-bromophenylamino)benzoic acid
This was prepared analogously from 4-fluoro-3-nitrobenzoic acid and 3-bromoaniline.

reactant | 4-fluoro-3-nitrobenzoic acid | FC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | 3-bromoaniline | BrC=1C=C(N)C=CC1 | C6H6BrN
product | 3-Nitro-4-(3-bromophenylamino)benzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1NC1=CC(=CC=C1)Br | C13H9BrN2O4
